US04556711
5-(4-Acetamidophenyl)-3-methyl-2(1H)-pyrazinone
5-(4-Aminophenyl)-3-methyl-2(1H)-pyrazinone hydrobromide (1.0 g) in water (25 ml) was treated with acetic anhydride and sodium acetate in a similar manner to that described in Example 3. On recrystallisation from aqueous acetic acid the title compound (0.68 g) had m.p.>300° C.; δ(DMSO-d6) inter alia 2.08 (3H,s, CO--CH3), 2.39 (3H, d, 3-CH3), 10.0 (1H, s, NHCO); ν(Nujol mull) 1655 (C=0) cm-1.

reactant | 5-(4-Aminophenyl)-3-methyl-2(1H)-pyrazinone hydrobromide | 1.0 g | Br.NC1=CC=C(C=C1)C=1N=C(C(NC1)=O)C
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | 5-(4-Acetamidophenyl)-3-methyl-2(1H)-pyrazinone | C(C)(=O)NC1=CC=C(C=C1)C=1N=C(C(NC1)=O)C | C13H13N3O2
